US05166406
2-[2-(tert-Butoxycarbonyl)ethyl]-2-ethoxycarbonylcyclohexanone
To a solution of 2-ethoxycarbonylcyclohexanone (5.0 g, 0.029 mol) and tert-butyl acrylate (4.83 g, 0.037 mol) in tert-butanol (30 ml) was added, in one portion, potassium carbonate (4.0 g, 0.029 mol). The suspension was stirred at room temperature for 22 hours, diluted with dichloromethane (100 ml) and distilled water (100 ml) and the layers separated. The aqueous layer was extracted with dichloromethane (2×100 ml) and the combined dichloromethane extracts dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica by eluting with hexane/ethyl acetate (4:1) to give, after combination and evaporation of appropriate fractions, the title compound as a colorless oil, (7.99 g, 92.3%; 98.92% by GC normalization) (MH+ 299.03, 8.53%). Rf. 0.15 (silica, hexane/ethyl acetate 4:1). 1H-NMR (300 MHz, CDCl3) =1.20 (t, 3H), 1.37 (s, 9H), 1.52-2.46 (m, 12H), 4.08-4.21 (m, 2H) ppm. 13C-NMR (62 MHz, CDCl3) =13.97, 22.38, 27.36, 27.91, 29.52, 30.49, 36.06, 40.85, 59.87, 61.19, 80.10, 171.61, 172.22, 207.39 ppm. Analysis %: Found: C, 64.19; H, 8.80; C16H26O5 requires C, 64.41; H, 8.78.

reactant | 2-ethoxycarbonylcyclohexanone | 0.029 mol, 5.0 g | C(C)OC(=O)C1C(CCCC1)=O | C9H14O3
reactant | tert-butyl acrylate | 0.037 mol, 4.83 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | potassium carbonate | 0.029 mol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | tert-butanol | 30 ml | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-[2-(tert-Butoxycarbonyl)ethyl]-2-ethoxycarbonylcyclohexanone | C(C)(C)(C)OC(=O)CCC1(C(CCCC1)=O)C(=O)OCC | C16H26O5
